US09375009B2
To 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride (500 mg) in dimethylformamide (6 ml) under argon were added {[tert-butyl(dimethyl)silyl]oxy}acetic acid (225 mg), diisopropylethylamine (582 mg) and 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU, 542 mg). The reaction mixture was stirred at room temperature for 18 hours. Then ice-cold sodium hydrogencarbonate solution was added thereto, the mixture was filtered, and the aqueous phase was removed and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. Purification by column chromatography gave 2-(3-{2-[1-({[tert-butyl(dimethyl)silyl]oxy}acetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate (150 mg, 22%).

reactant | 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride | 500 mg | [Cl-].CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | {[tert-butyl(dimethyl)silyl]oxy}acetic acid | 225 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)O | C8H18O3Si
reactant | diisopropylethylamine | 582 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 542 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(3-{2-[1-({[tert-butyl(dimethyl)silyl]oxy}acetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate | 150 mg, 22% | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CO[Si](C)(C)C(C)(C)C)=O | C26H37N3O6S2Si
